US08664203B2
14.1. 5-Bromo-2-phenyl-thiazole-4-carboxylic acid
To a solution of 2-phenyl-1,3-thiazole-4-carboxylic acid (3.2 g) in abs. THF (190 mL) was added at 78° C. over 10 min n-BuLi (25 mL, 1.6M in hexanes). After addition, Br2 (1.3 mL) in cyclohexane (7.4 mL) was added over 10 min. The reaction mixture was allowed to warm up to RT and was stirred at this temperature for 3 h. The reaction mixture was then cooled to 0° C., carefully quenched with HCl (1M, 32 mL) and extracted with EtOAc (2×). The combined org. phases were washed with aq. sodium thiosulfate (20%), dried over MgSO4 and evaporated to dryness to give 4.5 g of the desired product. The crude was used without further purification.

reactant | 2-phenyl-1,3-thiazole-4-carboxylic acid | 3.2 g | C1(=CC=CC=C1)C=1SC=C(N1)C(=O)O | C10H7NO2S
reactant | THF | 190 mL | C1CCOC1 | C4H8O
reactant | n-BuLi | 1.6M, 25 mL | [Li]CCCC
reactant | Br2 | 1.3 mL | BrBr | Br2
solvent | cyclohexane | 7.4 mL | C1CCCCC1 | C6H12
product | 5-Bromo-2-phenyl-thiazole-4-carboxylic acid | 4.5 g | BrC1=C(N=C(S1)C1=CC=CC=C1)C(=O)O | C10H6BrNO2S
